US04521422
[7-[3-(Ethylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]-2-furanylmethanone
A 10.7 g portion of N-ethyl-N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-4-methylbenzenesulfonamide was added to a mixture of 90 ml of water and 210 ml of concentrated sulfuric acid. This mixture was heated to 140°-145° C., allowed to cool slowly to room temperature, then cooled to -10° C., poured onto ice, made basic with 550 ml of concentrated ammonium hydroxide and cooled to 0° C. This mixture was extracted with dichloromethane. The extract was passed through hydrous magnesium silicate and washed with 200 ml of dichloromethane. The dichloromethane filtrate and wash was combined with 300 ml of hexane, concentrated to 300 ml, diluted to 800 ml with hexane, treated with charcoal, clarified and cooled to -10° C. This material was filtered, the filtrate concentrated to turbidity and cooled at -10° C. The precipitate was collected, washed with hexane and dried at 60° C. in vacuo, giving 2.3 g of the desired product, mp 142°-143° C.

reactant | N-ethyl-N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-4-methylbenzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)C=2OC=CC2 | C26H22N4O4S
reactant | sulfuric acid | 210 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | 550 ml | [OH-].[NH4+]
solvent | water | 90 ml | O | H2O
product | [7-[3-(Ethylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]-2-furanylmethanone | 2.3 g | C(C)NC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)C=2OC=CC2 | C19H16N4O2
